US05811459
4-[3-(3-Benzyloxy-2-pyridyl)prop-2-enyl]benzoic acid
(2-(4-Carboxyphenyl)ethyl)triphenylphosphonium bromide (0.58 g, 1.17 mmol) was suspended in THF (7 ml) and lithium bis(trimethylsilyl)amide was added (1M in THF, 2.46 ml). The reaction mixture turned orange and was allowed to stir for 1 hour at ambient temperature. A solution of 3-benzyloxy-2-pyridinecarbaldehyde (0.25 g, 1.17 mmol) in THF (3.5 ml) was added slowly. The reaction was stirred at ambient temperature for 1 hour. The reaction was quenched by the addition of water (8 ml) and ether (8 ml). The layers were separated, the ether layer was washed with water and the as aqueous layers were combined, acidified with 1N HCl and extracted with EtOAc (2×). The organic extracts were dried (MgSO4) and evaporated to give the title product as a mixture of isomers (2.7 g 66%).

reactant | (2-(4-Carboxyphenyl)ethyl)triphenylphosphonium bromide | 1.17 mmol, 0.58 g | [Br-].C(=O)(O)C1=CC=C(C=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-benzyloxy-2-pyridinecarbaldehyde | 1.17 mmol, 0.25 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C=O | C13H11NO2
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 3.5 ml | C1CCOC1 | C4H8O
product | 4-[3-(3-Benzyloxy-2-pyridyl)prop-2-enyl]benzoic acid | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C=CCC1=CC=C(C(=O)O)C=C1 | C22H19NO3
